US07893257B2
Methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-ethyl ester
Trifluoro-N,N-bis-(2-hydroxy-ethyl)-acetamide (2.01 g, 10 mmol) of in THF (12 mL) was cooled to ice bath temperature. Triethylamine (20.1 mol, 2.3 g=1.56 mol) was added between 5-10° C. Methanesulphonyl chloride was then added to the reaction mixture at a temperature between 5-10° C. The reaction mixture was stirred for 1 h at 5-10° C. and then allowed to warm to ambient temperature overnight. The resulting precipitated solids were filtered off and the reaction flask was rinsed with THF (2×10 mL portions), then filtered. The filtrate was concentrated to yield the title compound as a clear thick oil.

reactant | Trifluoro-N,N-bis-(2-hydroxy-ethyl)-acetamide | 10 mmol, 2.01 g | FC(C(=O)N(CCO)CCO)(F)F | C6H10F3NO3
reactant | Triethylamine | 20.1 mol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-ethyl ester | CS(=O)(=O)OCCN(CCOS(=O)(=O)C)C(C(F)(F)F)=O | C8H14F3NO7S2
